US08309577B2
Step E: 8-bromo-5-fluoro-3-isothiocyanatoisoquinoline
To a mixture of 8-bromo-5-fluoroisoquinolin-3-amine (0.30 g, 1.245 mmol) and dichloromethane (5 mL) was added 1,1′-thiocarbonyldipyridin-2(1H)-one (0.318 g, 1.369 mmol). The resulting mixture was stirred at rt for 3 hours. The product was directly purified on a 40 g Thompson silica cartridge (3% to 100% EtOAc in Hexanes, 1200 mL). The desired product was obtained as a off-white solid (0.23 g, 0.812 mmol, 65.3% yield). LC/MS (2.098 min, MH+: 284.93). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.38 (1H, s), 8.04 (1H, dd, J=8.31, 4.78 Hz), 7.96 (1H, s), 7.67 (1H, dd, J=9.82, 8.31 Hz). 19F NMR (376 MHz, DMSO-d6) δ ppm −122.13 (1F, s).

reactant | 8-bromo-5-fluoroisoquinolin-3-amine | 1.245 mmol, 0.30 g | BrC=1C=CC(=C2C=C(N=CC12)N)F | C9H6BrFN2
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 1.369 mmol, 0.318 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 8-bromo-5-fluoro-3-isothiocyanatoisoquinoline | BrC=1C=CC(=C2C=C(N=CC12)N=C=S)F | C10H4BrFN2S
